US04167633
2,4,6-triamino-5-nitrosopyrimidine was prepared by dissolving 1.0 mole of 2,4,6-triaminopyrimidine in 1040 ml of water and 1.5 moles of acetic acid, maintaining the temperature in the range of about 0°-16° C. Then 1.0 mole of sodium nitrite was added to the reaction mixture while controlling the reaction temperature in the range of 0°-20° C.

reactant | 2,4,6-triaminopyrimidine | 1.0 mole | NC1=NC(=CC(=N1)N)N | C4H7N5
reactant | acetic acid | 1.5 moles | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.0 mole | N(=O)[O-].[Na+]
solvent | water | 1040 ml | O | H2O
product | 2,4,6-triamino-5-nitrosopyrimidine | NC1=NC(=C(C(=N1)N)N=O)N | C4H6N6O
